US06248766B1
To a solution of benzoylnaphthalene (5.00 g, 21.5 mmol) in methanol (30 mL) was added sodium borohydride (400 mg, 10.8 mmol) with ice-cooling and the mixture was stirred at room temperature for 30 minutes. This reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water, dried over MgSO4, and filtered and the filtrate was concentrated under reduced pressure to provide 4.80 g of (2-naphthyl)phenylmethanol. To a solution of this compound (4.80 g, 20.5 mmol) in diisopropyl ether (30 mL) was added phosphorus tribromide (3.70 g, 13.7 mmol) with ice-cooling and the mixture was stirred at room temperature for 1 hour. This reaction mixture was diluted with water and extracted with diisopropyl ether. The organic layer was washed with water and saturated aqueous sodium hydrogen carbonate solution, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure and the solid residue was recrystallized from diisopropyl ether-hexane to provide 4.10 g of the title compound. Yield 64%.

reactant | benzoylnaphthalene | 21.5 mmol, 5.00 g | C(C1=CC=CC=C1)(=O)C1=CC=CC2=CC=CC=C12 | C17H12O
reactant | sodium borohydride | 10.8 mmol, 400 mg | [BH4-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | O | H2O
product | (2-naphthyl)phenylmethanol | 4.80 g | C1=C(C=CC2=CC=CC=C12)C(O)C1=CC=CC=C1 | C17H14O
